US06727264B1
N-[3-(1-{[1-(4-CHLOROPHENYL)-1H-PYRROL-2-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 1-(4-chlorophenyl)-1H-pyrrole-2-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 436.0 (M+H)+.

reactant | 1-(4-chlorophenyl)-1H-pyrrole-2-carbaldehyde | ClC1=CC=C(C=C1)N1C(=CC=C1)C=O | C11H8ClNO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-[3-(1-{[1-(4-CHLOROPHENYL)-1H-PYRROL-2-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)N1C(=CC=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H30ClN3O
